2199-01-06 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2199-1-5**] 08:11 AM
 SPUTUM CULTURE - At [**2199-1-5**] 08:30 AM
 NASAL SWAB - At [**2199-1-5**] 09:11 AM
   Still on AC
   Had become tachypneic with PSV, agitated
   Allergies:
   Tetanus Antitoxin
   Hypotension;
   Penicillins
   Rash;
   Ethambutol
   optic neuritis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-1-5**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2199-1-6**] 12:00 AM
   Hydralazine - [**2199-1-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-6**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 68 (54 - 84) bpm
   BP: 168/51(81) {97/36(61) - 180/80(87)} mmHg
   RR: 19 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64 kg (admission): 64 kg
             Total In:
                                                                    442 mL
                                                                    114 mL
   PO:
             TF:
   IVF:
                                                                    312 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    168 mL
   Urine:
                                                                  1,465 mL
                                                                    168 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,023 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 401) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.40/43/200//1
   Ve: 7.1 L/min
   PaO2 / FiO2: 500
   Physical Examination
   T: 97 rectal  BP: 175/40   HR: 55   RR: 20   O2 100 % RA
   Mechanical Ventilation on AC/400/20/0.50/5
   Blood gas 7.40/43/200
   Gen: Intubated, sedated
   HEENT: pinpoint pupils. No conjunctival pallor. No icterus. MMM.
   NECK: Supple, No LAD, No JVD. No thyromegaly.
   CV: RRR. nl S1, S2. III/IV SEM LUSB. no rubs or [**Last Name (un) 1792**]
   LUNGS: CTAB, No W/R/C
   ABD: NABS. Soft, NT, ND.  No HSM
   EXT: +1 pitting B/L pedal edema. 2+ DP pulses BL
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intubated and sedated
   Labs / Radiology
   310 K/uL
   11.5 g/dL
   158 mg/dL
   32.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2199-1-5**]  08:00 AM
                            [**2199-1-5**]  08:46 AM
                            [**2199-1-5**]  04:07 PM
                            [**2199-1-5**]  10:52 PM
                            [**2199-1-6**]  05:15 AM
   WBC
   14.3
   14.4
   Hct
   32.8
   35
   32.2
   Plt
   291
   310
   TropT
   0.01
   <0.01
   TCO2
   28
   Glucose
   158
   Other labs: CK / CKMB / Troponin-T:43//<0.01, Differential-Neuts:89.1
   %, Lymph:8.4 %, Mono:2.0 %, Eos:0.3 %
   Assessment and Plan
   This is a [**Age over 90 **] yof with hx of COPD, bronchiectasis, DM who presents with
   respiratory distress from home, s/p intubation, likely COPD
   exacerbation also found to have UTI.
   .
   # Respiratory Failure:  Patient called her life-line and was found by
   EMS at home in Respiratory Distress.  Given history of COPD, this
   likely represents a COPD exacerbation.  Patient is currently
   intubated.  Other concern is for ACS.  First set of CE negative and ECG
   with no acute abnormalities, will ROMI.
   -- Albuterol, Atrovent nebs RTC
   -- start Levofloxacin 500 IV daily
   -- start Solumedrol 125mg IV BID
   -- change Budesonide to Fluticasone while in-house
   -- f/u Blood Cx
   -- send sputum Cx
   -- continue ROMI, next set CE at 1pm
   -- cont ASA daily, change to 325 daily while ROMI
   -- wean off vent as tolerated
   .
   # UTI:  Patient with +urinalysis in ED.  Given respiratory failure,
   hypotension in ED, mild concern for Urosepsis.  Was given CTX in the
   Emergency Room, also given Levo for COPD exacerbation.  Levofloxacin
   provides adequate coverage for Community Acquired Urosepsis, thus, no
   need for addidition of CTX.
   -- cont Levo IV
   -- stop CTX
   -- f/u Urine Cx
   -- f/u Blood Cx
   .
   # Diastolic CHF - Patient with history of diastolic CHF.  Last ECHO
   with LVEF > 55%.  Also with Aortic Stenosis.  On exam has +1 pitting
   edema, likely mildy fluid overloaded which may have contributed to her
   COPD exacerbation
   -- Goal -500  today
   -- Lasix 20mg IV PRN
   .
   # Hypertension: on several meds which include Furosemide, Hydralazine,
   Isosorbide Dinitrate, Metoprolol and Nifedipine.
   -- start Hydral 25mg [**Hospital1 **] for afterload reduction
   -- hold remaining home meds given hypotension in ED with Propofol, will
   add remaining meds as needed for HTN
   .
   # Diabetes Mellitus: diet-controlled
   -- HISS while on Solumedrol
   .
   # FEN: NPO while intubated, replete lytes PRN
   .
   # PPx: PPI, Hep SQ, Bowel Regimen
   .
   # ACCESS: 2 PIV
   .
   # CODE: Presumed Full
   .
   # COMM: [**Name (NI) **], [**Name (NI) 7191**] [**Name (NI) 604**]: [**Telephone/Fax (1) 7192**]
   .
   # DISP: Pending above
 HYPERTENSION, BENIGN
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-1-5**] 08:17 AM
   22 Gauge - [**2199-1-5**] 08:18 AM
   20 Gauge - [**2199-1-6**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-01-07 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2199-1-6**] 11:10 AM
 EKG - At [**2199-1-7**] 02:30 AM
   L sided CP
   - Pt extubated in AM
   - Episodes of increased anxiousness and chest discomfort. Resolved with
   anxiolytics and low dose morphine.
   Allergies:
   Tetanus Antitoxin
   Hypotension;
   Penicillins
   Rash;
   Ethambutol
   optic neuritis;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-1-7**] 06:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-1-6**] 08:00 AM
   Morphine Sulfate - [**2199-1-6**] 10:20 PM
   Heparin Sodium (Prophylaxis) - [**2199-1-7**] 01:00 AM
   Hydralazine - [**2199-1-7**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-7**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 84 (61 - 91) bpm
   BP: 117/37(58) {102/32(48) - 172/91(99)} mmHg
   RR: 32 (14 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 64 kg
             Total In:
                                                                    839 mL
                                                                    397 mL
   PO:
                                                                    300 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    449 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                    576 mL
                                                                    119 mL
   Urine:
                                                                    576 mL
                                                                    119 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    263 mL
                                                                    278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (300 - 324) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 6.7 L/min
   Physical Examination
   Gen: Intubated, sedated, Not responding to commands (on 30 Propofol)
   HEENT: pinpoint pupils. No conjunctival pallor. No icterus. MMM.
   NECK: Supple, No LAD, No JVD. No thyromegaly.
   CV: RRR. nl S1, S2. 3/6 SEM no rubs or [**Last Name (un) 1792**]
   LUNGS: CTAB, No W/R/C
   ABD: NABS. Soft, NT, ND.  No HSM
   EXT: +1 pitting B/L pedal edema. 2+ DP pulses BL
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intubated and sedated
   Labs / Radiology
   295 K/uL
   11.3 g/dL
   152 mg/dL
   1.8 mg/dL
   25 mEq/L
   8.4 mEq/L
   54 mg/dL
   101 mEq/L
   133 mEq/L
   31.8 %
   19.7 K/uL
        [image002.jpg]
                            [**2199-1-5**]  08:00 AM
                            [**2199-1-5**]  08:46 AM
                            [**2199-1-5**]  04:07 PM
                            [**2199-1-5**]  10:52 PM
                            [**2199-1-6**]  05:15 AM
                            [**2199-1-7**]  05:00 AM
   WBC
   14.3
   14.4
   19.7
   Hct
   32.8
   35
   32.2
   31.8
   Plt
   291
   310
   295
   Cr
   1.5
   1.8
   TropT
   0.01
   <0.01
   TCO2
   28
   Glucose
   158
   166
   152
   Other labs: CK / CKMB / Troponin-T:43//<0.01, Differential-Neuts:89.1
   %, Lymph:8.4 %, Mono:2.0 %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:5.8 mg/dL
   Assessment and Plan
   [**Age over 90 **]F with COPD, bronchiectasis, DM p/w respiratory distress from home,
   s/p intubation, likely COPD exacerbation also found to have UTI.
   .
   # Acute Hypoxemic Respiratory Failure: Potential COPD exacerbation vs
   Infectious etiology.  Patient currently intubated.  Pt rulled out for
   MI.
   -- Albuterol, Atrovent nebs RTC
   -- Cont Levofloxacin 500 IV daily (Added because of UTI)
   -- Cont Solumedrol 125mg IV BID, will begin taper tomorrow
   -- Cont Fluticasone
   -- f/u Blood Cx
   -- f/y sputum Cx
   -- Given history of Bronchiectasis, if pt spikes, low threshold to
   cover potential Pseudomonas with Zosyn if pt becomes symptomatic for
   PNA.
   .
   # UTI:  +UA.  Culture + for E. Coli and Lactobacillus. > 100K.
   Currently on Levaquin dosed q48. Was given CTX in the Emergency Room.
   -- cont Levo IV
   -- stop CTX
   -- f/u Urine Cx
   -- f/u Blood Cx
   .
   # dCHF - Last ECHO with LVEF > 55%.  Also with Aortic Stenosis.  +1
   pitting edema, likely mildy fluid overloaded which may have contributed
   to her COPD exacerbation
   -- Goal I=O
   -- Lasix 20mg IV PRN
   .
   # Hypertension: on several meds which include Furosemide, Hydralazine,
   Isosorbide Dinitrate, Metoprolol and Nifedipine.
   -- start Hydral 25mg [**Hospital1 **] for afterload reduction
   -- hold remaining home meds given hypotension in ED with Propofol, will
   add remaining meds as needed for HTN
   .
   # Diabetes Mellitus: diet-controlled
   -- HISS while on Solumedrol
   .
   # FEN: NPO while intubated, replete lytes PRN, if still intubated would
   start TFs
 CHEST PAIN
 INEFFECTIVE COPING
 HYPERTENSION, BENIGN
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-1-6**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-01-07 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2199-1-6**] 11:10 AM
 EKG - At [**2199-1-7**] 02:30 AM
   L sided CP
   - Pt extubated yesterday AM, tolerating well with increased respiratory
   rate in the 30s, but comfortable.
   - Episodes of increased anxiousness and chest discomfort. Chest
   discomfort has been present for many years.  EKG showed no evidence of
   ischemia.  Resolved with anxiolytics and low dose morphine.
   Allergies:
   Tetanus Antitoxin
   Hypotension;
   Penicillins
   Rash;
   Ethambutol
   optic neuritis;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-1-7**] 06:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-1-6**] 08:00 AM
   Morphine Sulfate - [**2199-1-6**] 10:20 PM
   Heparin Sodium (Prophylaxis) - [**2199-1-7**] 01:00 AM
   Hydralazine - [**2199-1-7**] 01:00 AM
   Other medications:
   Diazepam PRN
   Metoprolol 25mg [**Hospital1 **]
   Solumedrol 125mg Q8H
   Omeprazole
   Albuterol and Ipratropium treatments
   Fluticasone
   Hydralazine 10mg TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-7**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 84 (61 - 91) bpm
   BP: 117/37(58) {102/32(48) - 172/91(99)} mmHg
   RR: 32 (14 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 64 kg
             Total In:
                                                                    839 mL
                                                                    398 mL
   PO:
                                                                    300 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    449 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                    576 mL
                                                                    119 mL
   Urine:
                                                                    576 mL
                                                                    119 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    263 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (300 - 324) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 6.7 L/min
   Physical Examination
   Gen: Intubated, sedated, Not responding to commands (on 30 Propofol)
   HEENT: pinpoint pupils. No conjunctival pallor. No icterus. MMM.
   NECK: Supple, No LAD, No JVD. No thyromegaly.
   CV: RRR. nl S1, S2. 3/6 SEM no rubs or [**Last Name (un) 1792**]
   LUNGS: CTAB, No W/R/C
   ABD: NABS. Soft, NT, ND.  No HSM
   EXT: +1 pitting B/L pedal edema. 2+ DP pulses BL
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intubated and sedated
   Labs / Radiology
   295 K/uL
   11.3 g/dL
   152 mg/dL
   1.8 mg/dL
   25 mEq/L
   8.4 mEq/L
   54 mg/dL
   101 mEq/L
   133 mEq/L
   31.8 %
   19.7 K/uL
        [image002.jpg]
                            [**2199-1-5**]  08:00 AM
                            [**2199-1-5**]  08:46 AM
                            [**2199-1-5**]  04:07 PM
                            [**2199-1-5**]  10:52 PM
                            [**2199-1-6**]  05:15 AM
                            [**2199-1-7**]  05:00 AM
   WBC
   14.3
   14.4
   19.7
   Hct
   32.8
   35
   32.2
   31.8
   Plt
   291
   310
   295
   Cr
   1.5
   1.8
   TropT
   0.01
   <0.01
   TCO2
   28
   Glucose
   158
   166
   152
   Other labs: CK / CKMB / Troponin-T:43//<0.01, Differential-Neuts:89.1
   %, Lymph:8.4 %, Mono:2.0 %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:5.8 mg/dL
   Assessment and Plan
   [**Age over 90 **]F with COPD, bronchiectasis, DM p/w respiratory distress from home,
   s/p intubation, likely COPD exacerbation also found to have UTI.
   .
   # Acute Hypoxemic Respiratory Failure: According to the patient
   daughter in law, the patient took too many of her ambient the night she
   was admitted.  She believes she was trying to get to sleep, but felt
   she was very somnolent following.  This could have worsened her
   respiratory failure.  Other possible components include COPD
   exacerbation and pulmonary edema.  The patient was extubated yesterday,
   and continues to have tachypnea and mild hypoxia.  Will treat
   empirically with vancomycin for staph aureus in the sputum
   -- Will continue Albuterol, Atrovent nebs
   -- Will discontinue solumedrol 125mg IV BID, and start prednisone taper
   tomorrow of 60, 50, 40, 30, 20 and then 10
   -- Cont Fluticasone
   -- f/u Blood and sputum Cx
   .
   # UTI:  +UA.  Culture + for E. Coli and Lactobacillus. > 100K.
   Currently on Levaquin dosed q48. Was given CTX in the Emergency Room.
   -- Will continue Levo IV
   -- f/u Urine sensitivities
   .
   # dCHF - Last ECHO with LVEF > 55%.  Also with Aortic Stenosis.  +1
   pitting edema, likely mildy fluid overloaded which may have contributed
   to her COPD exacerbation
   -- Goal I=O
   -- Lasix 20mg IV PRN, gave one dose today, with good [**Last Name (LF) 949**], [**First Name3 (LF) 178**] repeat
   tomorrow or later today if remains positive
   .
   # Hypertension: on several meds which include Furosemide, Hydralazine,
   Isosorbide Dinitrate, Metoprolol and Nifedipine.
   -- will switch meds to oral medications, on hydralazine and metoprolol
   only currently with PRN lasix, will add back others as needed.
   -
   .
   # Diabetes Mellitus: diet-controlled
   -- HISS while on steroid taper
   .
   # FEN: regular diet as tolerated, replete lytes PRN, if still intubated
   would start
 CHEST PAIN
 INEFFECTIVE COPING
 HYPERTENSION, BENIGN
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-1-6**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-01-07 09:03:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: [**Age over 90 **] yo Russian speaking woman with longstanding COPD,
   bronchiectasis and [**Doctor First Name **], diastolic CHF, AS [**Location (un) **] .8 and mod AR, HTn, and
   DM who now is admitted for acute respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2199-1-6**] 11:10 AM
   Successfully  extubated but remains tachypneic this AM
 EKG - At [**2199-1-7**] 02:30 AM
   L sided CP
   Very anxious overnight, very upset about her life circumstances.
   She has told several nurses that she wants to die and could they give
   her some pills to help her die.
   Allergies:
   Tetanus Antitoxin
   Hypotension;
   Penicillins
   Rash;
   Ethambutol
   optic neuritis;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-1-7**] 06:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2199-1-6**] 10:20 PM
   Pantoprazole (Protonix) - [**2199-1-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2199-1-7**] 08:00 AM
   Hydralazine - [**2199-1-7**] 08:00 AM
   Other medications:
   Medrol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-7**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 88 (61 - 91) bpm
   BP: 126/43(63) {102/32(48) - 155/91(99)} mmHg
   RR: 32 (14 - 37) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 64 kg
             Total In:
                                                                    839 mL
                                                                    490 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    449 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    576 mL
                                                                    174 mL
   Urine:
                                                                    576 mL
                                                                    174 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    263 mL
                                                                    316 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  warm
   Neurologic: Responds to voice and questions
   Labs / Radiology
   11.1 g/dL
   353 K/uL
   154 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   53 mg/dL
   102 mEq/L
   138 mEq/L
   32.1 %
   19.6 K/uL
        [image002.jpg]
                            [**2199-1-5**]  08:00 AM
                            [**2199-1-5**]  08:46 AM
                            [**2199-1-5**]  04:07 PM
                            [**2199-1-5**]  10:52 PM
                            [**2199-1-6**]  05:15 AM
                            [**2199-1-7**]  05:00 AM
                            [**2199-1-7**]  06:20 AM
   WBC
   14.3
   14.4
   19.7
   19.6
   Hct
   32.8
   35
   32.2
   31.8
   32.1
   Plt
   291
   310
   295
   353
   Cr
   1.5
   1.8
   1.7
   TropT
   0.01
   <0.01
   TCO2
   28
   Glucose
   158
   166
   152
   154
   Other labs: CK / CKMB / Troponin-T:43//<0.01, Differential-Neuts:89.1
   %, Lymph:8.4 %, Mono:2.0 %, Eos:0.3 %, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.7 mg/dL
   Assessment and Plan
 CHEST PAIN
 INEFFECTIVE COPING
 HYPERTENSION, BENIGN
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 URINARY TRACT INFECTION (UTI)
   1.       COPD - Agree with plan to treat respiratory failure as COPD
   exacerbation with concomittant PNA- CXR with worsened LLL infiltrate
   and sputum growing S. aureus so we will add Vanco. Remains in resp.
   distress with tachypnea to 36
 will watch volume status closely and
   broaden ABX as above
   2.       UTI:  Will treat with antibiotics (levoflox
 pending cultire
   data), steroids, bronchodilators.
   3.       Psych: call psych consult today in light of her expressions of
   suicidality.
   Remainder of plan as outlined in the team
s daily progress note
   ICU Care
   Nutrition: slow po diet
   Glycemic Control:
   Lines:  20 Gauge - [**2199-1-6**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication:  with pt and will call daughter
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor

2199-01-08 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2199-1-8**] 05:00 AM
   Routine weekly MRSA swab
   Pt was positive 750cc at midnight.  Repeated lasix dose of 20mg PO.
   She then had increased [**Year (4 digits) 949**] to 120 at 1am followed by 30.
   Seen by Pscyh, thought possibly delirious and recommended seroquel
   which was started
   On interview this am, would like to sleep and asking for cup of water.
   SOB improved. Denies cough, CP.
   Allergies:
   Tetanus Antitoxin
   Hypotension;
   Penicillins
   Rash;
   Ethambutol
   optic neuritis;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-1-7**] 06:15 AM
   Vancomycin - [**2199-1-7**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-1-7**] 08:00 AM
   Hydralazine - [**2199-1-7**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2199-1-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-8**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 69 (62 - 88) bpm
   BP: 160/40(72) {100/32(57) - 160/88(95)} mmHg
   RR: 22 (20 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 64 kg
             Total In:
                                                                  1,480 mL
                                                                    190 mL
   PO:
                                                                    880 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    600 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    731 mL
                                                                    470 mL
   Urine:
                                                                    731 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    749 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Gen: Awake, alert, interactive, conversant, NAD
   HEENT:PERRL. No conjunctival pallor. No icterus. MMM.
   NECK: Supple, No LAD, No JVD.
   CV: RRR. nl S1, S2. 3/6 Systolic murmur radiating to carotids,  no rubs
   or [**Last Name (un) 1792**]
   LUNGS: Diminished air movement throughout. Occ end expiratory wheezes.
   No rhonchi/crackles
   ABD: NABS. Soft, NT, ND.  No HSM
   EXT: No pitting edema. 2+ DP pulses BL
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: AAO x 3
   Labs / Radiology
   320 K/uL
   11.0 g/dL
   100 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.6 mEq/L
   70 mg/dL
   103 mEq/L
   137 mEq/L
   31.8 %
   19.7 K/uL
        [image002.jpg]
                            [**2199-1-5**]  08:00 AM
                            [**2199-1-5**]  08:46 AM
                            [**2199-1-5**]  04:07 PM
                            [**2199-1-5**]  10:52 PM
                            [**2199-1-6**]  05:15 AM
                            [**2199-1-7**]  05:00 AM
                            [**2199-1-7**]  06:20 AM
                            [**2199-1-8**]  05:20 AM
   WBC
   14.3
   14.4
   19.7
   19.6
   19.7
   Hct
   32.8
   35
   32.2
   31.8
   32.1
   31.8
   Plt
   291
   310
   295
   353
   320
   Cr
   1.5
   1.8
   1.7
   1.9
   TropT
   0.01
   <0.01
   TCO2
   28
   Glucose
   158
   166
   152
   154
   100
   Other labs: CK / CKMB / Troponin-T:43//<0.01, Differential-Neuts:89.1
   %, Lymph:8.4 %, Mono:2.0 %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.7 mg/dL
   TSH/B12 pending
   Trends
   Cr 1.9<-1.7<-1.8
   WBC 19.6<-19.7 HCT 31.8<-32
   Micro
   [**1-5**] sputum cx MRSA, aspergillus fumigatus
   Urine: E coli (pansens), lactobacillus
   [**1-5**] blood cx NGTD
   Assessment and Plan
   [**Age over 90 **]F with COPD, bronchiectasis, DM a/w respiratory distress from home
   likely COPD exacerbation and pneumonia, s/p intubation and extubation
   approximately 24 hours later, also found to have UTI.
   .
   # Acute Hypoxemic Respiratory Failure: Likely secondary to COPD
   exacerbation and pneumonia. [**Month (only) 60**] also have had altered mental status
   since according to the patient
s daughter in law, the patient took too
   many of her ambien the night she was admitted.  She believes she was
   trying to get to sleep, but felt she was very somnolent following.
   This could have worsened her respiratory failure.  [**Month (only) 60**] also have had
   component of pulmonary edema with history of diastolic dysfunction.
   The patient was extubated 2 ays prior and continues to improve,
   currently only on 2L NC.  Will treat with vancomycin for MRSA PNA. She
   also had aspergillus in sputum which also had [**9-17**], likely colonizer in
   pt with bronchiectasis.
   -- Will continue Albuterol (change to prn), Atrovent nebs
   -- Prednisone taper 60, 50, 40, 30, 20 and then 10
   -- Cont Fluticasone
   -- f/u Blood and sputum Cx
   .
   # UTI:  +UA.  Culture + for E. Coli and Lactobacillus. > 100K.
   Currently on Levaquin dosed q48. Was given CTX in the Emergency Room.
   -- Will continue Levo IV
   -- f/u Urine sensitivities
   .
   # dCHF - Last ECHO with LVEF > 55%.  Also with Aortic Stenosis.  no
   pitting edema today. CXR with mild pulmonary edema, may need lasix but
   currently not very fluid overloaded so will defer for now. Likely mildy
   fluid overloaded but creatinine had slight bump overnight and received
   lasix this am.
   -- Goal I=O
   -- Lasix 20mg IV PRN, gave one dose early this am with good [**Last Name (LF) 949**], [**First Name3 (LF) 178**]
   repeat tomorrow or later today if remains positive
   .
   # Hypertension: on several meds which include Furosemide, Hydralazine,
   Isosorbide Dinitrate, Metoprolol and Nifedipine.
   -- will switch meds to oral medications, on hydralazine and metoprolol
   only currently with PRN lasix, will add back others as needed.
   -
   .
   # Diabetes Mellitus: diet-controlled
   -- HISS while on steroid taper
   .
   # FEN: regular diet as tolerated, replete lytes PRN, if still intubated
   would start
   .
   # PPX: hep SC, PPI
   .
   # Code: Full
 CHEST PAIN
 INEFFECTIVE COPING
 HYPERTENSION, BENIGN
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 URINARY TRACT INFECTION (UTI)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 CHEST PAIN
 INEFFECTIVE COPING
 HYPERTENSION, BENIGN
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-1-6**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   For UTI, will change to Cipro PO since sensitive. HTn well controlled
   ------ Protected Section Addendum Entered By:[**Name (NI) 2189**] [**Last Name (NamePattern1) 5809**], MD
   on:[**2199-1-8**] 13:23 ------

2199-01-08 10:13:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2199-1-8**] 05:00 AM
   Routine weekly MRSA swab
   Given Lasix for positive fluid balance
   Seen by Psych for suicidal ideation
   Allergies:
   Tetanus Antitoxin
   Hypotension;
   Penicillins
   Rash;
   Ethambutol
   optic neuritis;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-1-7**] 06:15 AM
   Vancomycin - [**2199-1-7**] 12:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2199-1-7**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2199-1-8**] 12:00 AM
   Other medications:
   Prednisone 60
   ASA 325
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-8**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 65 (62 - 77) bpm
   BP: 130/31(57) {100/31(57) - 160/88(93)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 64 kg
             Total In:
                                                                  1,480 mL
                                                                    222 mL
   PO:
                                                                    880 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    600 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    731 mL
                                                                    670 mL
   Urine:
                                                                    731 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    749 mL
                                                                   -448 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  warm
   Neurologic: Responds to voice and questions
   Labs / Radiology
   11.0 g/dL
   320 K/uL
   100 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.6 mEq/L
   70 mg/dL
   103 mEq/L
   137 mEq/L
   31.8 %
   19.7 K/uL
        [image002.jpg]
                            [**2199-1-5**]  08:00 AM
                            [**2199-1-5**]  08:46 AM
                            [**2199-1-5**]  04:07 PM
                            [**2199-1-5**]  10:52 PM
                            [**2199-1-6**]  05:15 AM
                            [**2199-1-7**]  05:00 AM
                            [**2199-1-7**]  06:20 AM
                            [**2199-1-8**]  05:20 AM
   WBC
   14.3
   14.4
   19.7
   19.6
   19.7
   Hct
   32.8
   35
   32.2
   31.8
   32.1
   31.8
   Plt
   291
   310
   295
   353
   320
   Cr
   1.5
   1.8
   1.7
   1.9
   TropT
   0.01
   <0.01
   TCO2
   28
   Glucose
   158
   166
   152
   154
   100
   Other labs: CK / CKMB / Troponin-T:43//<0.01, Differential-Neuts:89.1
   %, Lymph:8.4 %, Mono:2.0 %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 CHEST PAIN
 INEFFECTIVE COPING
 HYPERTENSION, BENIGN
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 URINARY TRACT INFECTION (UTI)
   1.       COPD
 resp failure resolved now extubated x 48 hours. ON Day
   2of 8 Vanco for MRSA PNA. Continue steroids, nebs.
   2.       UTI:  E coli UTI day [**3-16**] quinolone
   3.       Psych: seen, felt not a danger to self no need 1:1 sitter.
   Call out to Medicin
   Remainder of plan as outlined in the team
s daily progress note
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2199-1-6**] 11:00 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: po diet
   Communication:  with pt and daughter
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor